Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]1[O:8][C:9]1([H:10])[H:11]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11],1.70940841
[C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13].[O:1]>>[O:1][C:2]([H:3])([H:4])[C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.20814152606
[H:1][C:2]=[C:3]([H:4])[O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2]#[C:3][O:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:4],2.16753243405
[H:1][C:2]=[C:3]1[O:4][C:5][C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C@@:6]([C:5]=[O:4])([H:7])[C:8]([H:9])([H:10])[H:11],-2.79055528478
[C:3]#[C:4][H:5].[H:1][C:2]([H:6])=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-3.02895294895
[H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])[H:14]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C@@:8]([H:9])([O:10][H:11])[C:12]([H:13])([H:14])[H:15],-4.579920209119999
[C:1]#[C:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[H:10]>>[C:1][C:2]#[C:3][C:7]([H:8])([H:9])[H:10].[C:4]([H:5])[H:6],5.76394358366
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:11].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:12]([H:13])[H:14],1.66085875641
[C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17].[H:1][C:2][H:3]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[O:13][C:14]([H:15])([H:16])[H:17],-5.12921232433
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]#[C:9][O:10][H:11],1.10776467226
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14]>>[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:13][H:14],4.17337222854
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])/[C:9]([H:10])=[C:11](\[H:12])[C:14]([H:15])([H:16])[H:17],1.94179731755
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11],1.93820636187
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[C:11]([H:12])([H:13])[H:14].[O:9][H:10]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-5.35137171453
[H:1][C:2]#[C:3][C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12].[H:4]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][C:10]([H:11])[H:12],-1.89966412438
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-4.1872128548
[H:1][O:2][C:3]#[C:4]/[C:5]([H:6])=[C:8](\[H:9])[O:10][H:11].[H:7]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-1.6898262468799998
[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9].[O:1]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[H:9],-8.015523115239999
[O:1][C@:2]([H:3])([C:4]#[C:5][O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:7].[O:1][C@@:2]([H:3])([C:4]=[C:5]=[O:6])[C:8]([H:9])([H:10])[H:11],3.04170014805
[O:1].[O:2]=[C:3]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-0.64749074911
[C:1][C:2]#[C:3][H:4]>>[C:1][H:4].[C:2]#[C:3],9.06705691857
[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-7.2074878
[H:10].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.70385864953
[H:12].[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[O:13][H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13][H:14],-4.128395446619999
[H:1]/[C:2](=[C:3](/[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:16].[H:1]/[C:2](=[C:3](/[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])[H:15],3.75142721829
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6][O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]#[C:3]/[C:4](=[C:6]/[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:5],2.75315781042
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:7]([H:8])#[C:9][C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.25401113071
[C:10]([H:11])([H:12])[H:13].[H:1][O:9]/[C:7](=[C:5](/[C:3](=[O:2])[H:4])[H:6])[H:8]>>[H:1][O:2][C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.801888026101
